US05030736
3-Methoxy-2-(3-methyl-1-oxo-2-buten-1-yl) thiophene (2)
A solution of 3-methoxythiophene (21.3 g, 0.187 mol) [S. Gronowitz, Arkiv. Kemi., 1958, 12, 239] in dichloromethane (50 mL) was slowly added to a solution of 3,3-dimethylacryloyl chloride (22 mL, 0.195 mol) and tin(IV) chloride (23 mL, 0.195 mol) in dichloromethane (350 mL) at 0°-5° C. After stirring at 0°-5° C. an additional 1 h, the solution was poured into ice water (1 L). The organic layer was separated, washed with water, and dried over magnesium sulfate. The solvent was evaporated in vacuo. The resulting oil was purified by flash chromatography using dichloromethane as the eluant to give the product, 29.6 g (81%): mp 49°-51° C.; IR (KBr): 1671, 1628 and 1430 cm-1 ; MS: m/z 197 (MH+); 1H NMR (CDCl3): δ1.98(d, J=1.2 Hz, 3H), 2.23(d, J= 1.1 Hz, 3H), 3.98(s, 3H), 6.85(d, J=5.5 Hz, 1H), 6.89(dd, J=1.1 Hz, J=1.2 Hz, 1H) and 7.47(d, J=5.5 Hz, 1H).

reactant | 3-methoxythiophene | 0.187 mol, 21.3 g | COC1=CSC=C1 | C5H6OS
reactant | 3,3-dimethylacryloyl chloride | 0.195 mol, 22 mL | CC(=CC(=O)Cl)C | C5H7ClO
reactant | tin(IV) chloride | 0.195 mol, 23 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | KBr | [K+].[Br-]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | 3-Methoxy-2-(3-methyl-1-oxo-2-buten-1-yl) thiophene | COC1=C(SC=C1)C(C=C(C)C)=O | C10H12O2S
